US05532248
17-Ethyl-1-hydroxy-12-[2'-(3",4"-dipropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(3",4"-diallyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (6.8 mg in 600 μl ethyl acetate) was added 4 mg of 5% rhodium on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 25 minutes, the mixture was filtered over Celite, concentrated and purified by flash chromatography on silica gel (ethyl acetate:hexane (1:3)+1% methanol) to give the title compound (4.5mg).

reactant | hydrogen | [H][H] | H2
reactant | 17-ethyl-1-hydroxy-12-[2'-(3",4"-diallyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 600 μl, 6.8 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=C)OCC=C)C)C)=O | C48H75NO11
catalyst | rhodium on carbon | 4 mg | [Rh] | Rh
product | 17-Ethyl-1-hydroxy-12-[2'-(3",4"-dipropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 4.5mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCC)OCCC)C)C)=O | C48H79NO11
